US07592373B2
4.279.c. 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{4-[2-(cyclopropylmethylpropylamino)ethoxy]-3-methoxyphenyl}amide hydrochloride
Prepared analogously to Example 2.3.f. from 150 mg (0.6 mmol) of (2-chloro-4-trifluoromethylphenyl)propynoic acid and 185 mg (0.66 mmol) of 4-[2-(cyclopropylmethylpropylamino)ethoxy]-3-methoxyphenylamine. Yield: 180 mg (59% of theory); melting point: 185° C.-188° C.; C26H28ClF3N2O3 (M=508.96)*HCl; calc.: molecular ion peak (M+H)+: 509/511 (Cl); found: molecular ion peak (M+H)+: 509/511 (Cl); Rf value: 0.35 (silica gel, dichloromethane/methanol (9:1)).

reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | 0.6 mmol, 150 mg | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
reactant | 4-[2-(cyclopropylmethylpropylamino)ethoxy]-3-methoxyphenylamine | 0.66 mmol, 185 mg | C1(CC1)CN(CCOC1=C(C=C(C=C1)N)OC)CCC | C16H26N2O2
reactant | HCl | Cl | ClH
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{4-[2-(cyclopropylmethylpropylamino)ethoxy]-3-methoxyphenyl}amide hydrochloride | Cl.C1(CC1)CN(CCOC1=C(C=C(C=C1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)OC)CCC | InChI=1S/C26H28ClF3N2O3.ClH/c1-3-12-32(17-18-4-5-18)13-14-35-23-10-9-21(16-24(23)34-2)31-25(33)11-7-19-6-8-20(15-22(19)27)26(28,29)30;/h6,8-10,15-16,18H,3-5,12-14,17H2,1-2H3,(H,31,33);1H
